US05726165
Benzylhydroxymethylphosphinic acid, n-butyl ester
The title compound was prepared from benzylphosphinic acid, n-butyl ester and paraformaldehyde according to the method described in Procedure 31.

reactant | benzylphosphinic acid, n-butyl ester | C(C1=CC=CC=C1)P(OCCCC)=O | C11H17O2P
reactant | paraformaldehyde | C=O | CH2O
product | Benzylhydroxymethylphosphinic acid, n-butyl ester | C(C1=CC=CC=C1)P(OCCCC)(=O)CO | C12H19O3P
